US06900215B2
2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol was coupled with 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]thiophene-2-carbonitrile as described in Example 65 to give 3-{2-fluoro-5-[7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyrimidin-3-yl]phenyl}thiophene-2-carbonitrile as a buff-coloured solid: δH (400 MHz, CDCl3) 1.57 (6H, s), 7.10 (1H, d, J 7), 7.41-7.44 (2H, m), 7.60-7.64 (1H, m), 7.71 (1H, d J 5), 7.84 (1H, dd, J 7 and 2), 7.87 (1H, s), 8.88 (1H, d, J 7).

reactant | 2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]thiophene-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=C(SC=C1)C#N | C17H17BFNO2S
product | 3-{2-fluoro-5-[7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyrimidin-3-yl]phenyl}thiophene-2-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)C2=C(SC=C2)C#N | C20H15FN4OS
